US08648066B2
A solution of phenylmethyl{2-[(2-amino-5-bromopyridin-3-yl)amino]-2-oxoethyl}methylcarbamate (0.30 g, 0.76 mmol) in acetic acid (7.5 mL) was heated in a microwave apparatus (250 W) for 30 min. at 120° C. After cooling it to room temperature the reaction mixture was concentrated and the pH was adjusted to 8 by the addition of saturated aqueous sodium bicarbonate. The precipitating solid was collected by filtration, washed with water and dried in vacuo to give phenylmethyl[(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)methyl]methylcarbamate (0.22 g, 76%). MS (EI) for C16H15BrN4O2: 376 (MH+).

reactant | phenylmethyl{2-[(2-amino-5-bromopyridin-3-yl)amino]-2-oxoethyl}methylcarbamate | 0.76 mmol, 0.30 g | C1(=CC=CC=C1)COC(N(C)CC(=O)NC=1C(=NC=C(C1)Br)N)=O | C16H17BrN4O3
solvent | acetic acid | 7.5 mL | C(C)(=O)O | C2H4O2
product | phenylmethyl[(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)methyl]methylcarbamate | 0.22 g, 76% | C1(=CC=CC=C1)COC(N(C)CC=1NC=2C(=NC=C(C2)Br)N1)=O | C16H15BrN4O2
